US07947692B2
Hydrogen chloride gas was bubbled through a solution of 4-(7-methoxy-thiazolo[5,4-d]pyrimidin-2-ylcarbamoyl)-piperazine-1-carboxylic acid tert-butyl ester (5.20 g, 13 mmol) in methylene chloride (70 mL) for 10 min at 0° C. A white precipitate formed. The resulting slurry was stirred at 25° C. for 2 h. At this time, the mixture was concentrated in vacuo and dried under high vacuum to afford piperazine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide hydrochloride (4.61 g) as a white solid; LRMS for C11H14N6O2S (M+H)+ at m/z=295. This solid was used in the next step without further purification.

reactant | Hydrogen chloride | Cl | ClH
reactant | 4-(7-methoxy-thiazolo[5,4-d]pyrimidin-2-ylcarbamoyl)-piperazine-1-carboxylic acid tert-butyl ester | 13 mmol, 5.20 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(NC=1SC=2N=CN=C(C2N1)OC)=O | C16H22N6O4S
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | piperazine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide hydrochloride | 4.61 g | Cl.COC=1C2=C(N=CN1)SC(=N2)NC(=O)N2CCNCC2 | InChI=1S/C11H14N6O2S.ClH/c1-19-8-7-9(14-6-13-8)20-10(15-7)16-11(18)17-4-2-12-3-5-17;/h6,12H,2-5H2,1H3,(H,15,16,18);1H
